US07585868B2
Synthesis of 3-(4-aminophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK137).
1-tert-butyl-3-(4-aminophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (9 mg, 0.032 mmol) was dissolved in a solution of formic acid (1 mL) and conc. HCl (0.2 mL) and heated to reflux. The reaction was allowed to proceed 30 min., then concentrated in vacuo and the products purified by RP-HPLC (MeCN:H2O:0.1% TFA). ESI-MS (M+H)+ m/z calcd 227.1, found 227.3.

reactant | 1-tert-butyl-3-(4-aminophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.032 mmol, 9 mg | C(C)(C)(C)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)N | C15H18N6
solvent | formic acid | 1 mL | C(=O)O | CH2O2
solvent | HCl | 0.2 mL | Cl | ClH
product | 3-(4-aminophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | NC1=CC=C(C=C1)C1=NNC2=NC=NC(=C21)N | C11H10N6
